US04547496
In this example, 2.1 g of 5-oxo-5,11-dihydro[1]benzoxepino[3,4-b]pyridine and 8.8 g of 3-aminoquinuclidine were dissolved in 50 ml of anhydrous benzene. Then, a solution of 1.1 g of titanium tetrachloride in 20 ml of anhydrous benzene was added dropwise thereto under ice cooling. The mixture was stirred under ice cooling for 3 hours and at room temperature for an additional two days. After completion of the reaction, the precipitate formed was filtered away, and the filtrate was concentrated under the reduced pressure. Then, 150 ml of ethyl acetate and 30 ml of water were added thereto and the mixture was shaken. The separated aqueous layer was removed, and the ethyl acetate layer was dried and concentrated. Purification of the residue by chromatography on silica gel, followed by concentration of the main fraction, gave 1.35 g of 5-(3-quinuclidinyl)imino-5,11-dihydro[1]benzoxepino[3,4-b]pyridine as crystals. This product was dissolved in 20 ml of methanol and pH of the solution was adjusted to 5 with hydrochloric acid. Then, 1.0 g of sodium borocyanohydride was added thereto, and the mixture was heated at 40°-50° C. for 8 hours. After addition of 30 ml water, pH was adjusted to 12 with 1N aqueous sodium hydroxide solution, and the alkaline solution was extracted twice with 100 ml ethyl acetate. The ethyl acetate layer was dried and concentrated under reduced pressure, and the residue was purified by chromatography on silica gel. The main fraction was concentrated, whereby 1.0 g of 5-(3-quinuclidinyl)amino-5,11-dihydro[1]benzoxepino[3,4-b]pyridine (compound 25) as a diastereomeric mixture was obtained.

reactant | 5-oxo-5,11-dihydro[1]benzoxepino[3,4-b]pyridine | 2.1 g | O=C1C2=C(OCC3=NC=CC=C31)C=CC=C2 | C13H9NO2
reactant | 3-aminoquinuclidine | 8.8 g | NC1CN2CCC1CC2 | C7H14N2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | titanium tetrachloride | 1.1 g | [Ti](Cl)(Cl)(Cl)Cl
product | 5-(3-quinuclidinyl)imino-5,11-dihydro[1]benzoxepino[3,4-b]pyridine | 1.35 g | N12CC(C(CC1)CC2)N=C2C1=C(OCC3=NC=CC=C32)C=CC=C1 | C20H21N3O
